US04638075
N-(5-Amino-1,2,4-triazol-3-yl)-2,6-dichlorobenzenesulfonamide
A mixture of 90.1 g (0.398 mol) of 2,6-dichlorobenzenesulfonamide, 64.7 g (0.398 mol) of dimethyl N-cyanodithioiminocarbonate and 58.3 g (0.420 mol) of powdered anhydrous K2CO3 in 800 ml of THF was heated at reflux for 3 hours. After cooling to 30° C., 25.3 ml (25.6 g, 0.798 mol) of anhydrous hydrazine was added dropwise over 30 minutes. The resulting mixture was stirred for 3 days at ambient temperature and filtered. The solid collected was washed with THF, suspended in 400 ml of water and acidified with 180 ml of acetic acid. The resulting mixture was filtered, and the solid collected was washed with water and dried to yield 112 g (91 percent) of the desired product as a white solid, mp 300° C. (decomp.) IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | 2,6-dichlorobenzenesulfonamide | 0.398 mol, 90.1 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)N | C6H5Cl2NO2S
reactant | dimethyl N-cyanodithioiminocarbonate | 0.398 mol, 64.7 g | CSC(=NC#N)SC | C4H6N2S2
reactant | K2CO3 | 0.420 mol, 58.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrazine | 0.798 mol, 25.3 ml, 25.6 g | NN | H4N2
solvent | THF | 800 ml | C1CCOC1 | C4H8O
product | N-(5-Amino-1,2,4-triazol-3-yl)-2,6-dichlorobenzenesulfonamide | 112 g, 91 percent | NC1=NC(=NN1)NS(=O)(=O)C1=C(C=CC=C1Cl)Cl | C8H7Cl2N5O2S
